US08309546B2
Step 2: 5-{8-[4-(Methylsulfonyl)piperidin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine
4-Methanesulfonylpiperidine hydrochloride (385 mg, 1.93 mmol), diisopropylethylamine (672 μg, 3.9 mmol), and N-methyl-2-pyrrolidone (2 ml) were added to 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine (200 mg, 0.48 mmol) and the resulting mixture was stirred at 100° C. for 12 hours. The reaction mixture was partitioned with ethyl acetate and water, the organic layer was dried over magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=20:1) to give the title compound (81 mg, 33%) as a pale yellow solid.

reactant | 4-Methanesulfonylpiperidine hydrochloride | 1.93 mmol, 385 mg | Cl.CS(=O)(=O)C1CCNCC1
reactant | diisopropylethylamine | 3.9 mmol, 672 μg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 0.48 mmol, 200 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C15H14ClF3N8O
solvent | N-methyl-2-pyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 5-{8-[4-(Methylsulfonyl)piperidin-1-yl]-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl}pyrimidin-2-amine | 81 mg, 33% | CS(=O)(=O)C1CCN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C21H26F3N9O3S
